### PR TITLE
[Merged by Bors] - feat(KrullDimension): krullDim lemmas

### PR DESCRIPTION
**Pull request by nomeata**
Part of #15524. (There will be more interesting krullDim lemma once we
add the full coheight api)

From the Carleson project.

### CODE REVIEW

File: Mathlib/Order/KrullDimension.lean [hunk 1]
```diff
@@ -395,22 +395,55 @@ lemma krullDim_eq_of_orderIso (f : α ≃o β) : krullDim α = krullDim β :=
 
 /--
 The Krull dimension is the supremum of the elements' heights.
+
+See `krullDim_eq_iSup_height` for the more general, but less convenient version without the
+`Nonempty` requirement.
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:400]: Can you explain the precise difference between the two statements? It's hard to make out from just staring at the code

File: Mathlib/Order/KrullDimension.lean [hunk 2]
```diff
@@ -395,22 +395,55 @@ lemma krullDim_eq_of_orderIso (f : α ≃o β) : krullDim α = krullDim β :=
...
+-/
+lemma krullDim_eq_iSup_height_of_nonempty [Nonempty α] : krullDim α = ⨆ (a : α), height a := by
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:402]: Ah wait, this is parsed as
```suggestion
lemma krullDim_eq_iSup_height_of_nonempty [Nonempty α] : krullDim α = ↑(⨆ a : α, height a) := by
```
Probably worth writing it like that, because one would expect the arrow to be pushed inside (and it might become so in the future)

File: Mathlib/Order/KrullDimension.lean [hunk 3]
```diff
@@ -414,10 +417,14 @@ lemma krullDim_eq_iSup_height_of_nonempty [Nonempty α] : krullDim α = ⨆ (a :
 /--
 The Krull dimension is the supremum of the elements' coheights.
 
-See `krullDim_eq_iSup_coheight` for the more general, but less convenient version without the
-`Nonempty` requirement.
+This version of the lemma assumes that `α` is nonempty. In this case, the coercion from `ℕ∞` to
+`WithBot ℕ∞` is on the outside fo the right-hand side, which is usually more convenient.
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:437]:
```suggestion
`WithBot ℕ∞` is on the outside of the right-hand side, which is usually more convenient.
```

File: Mathlib/Order/KrullDimension.lean [hunk 4]
```diff
@@ -411,22 +411,73 @@ lemma krullDim_eq_of_orderIso (f : α ≃o β) : krullDim α = krullDim β :=
...
+If `α` were empty, then `krullDim α = ⊥`. See `krullDim_eq_iSup_coheight` for the more general
+version, with the coercion under the supremum.
+-/
+lemma krullDim_eq_iSup_coheight_of_nonempty [Nonempty α] :
+    krullDim α = ↑(⨆ (a : α), coheight a) := by
+  rw [← krullDim_orderDual]
+  exact krullDim_eq_iSup_height_of_nonempty (α := αᵒᵈ)
+
+/--
+The Krull dimension is the supremum of the element's heights.
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:448]:
```suggestion
The Krull dimension is the supremum of the elements' heights.
```

File: Mathlib/Order/KrullDimension.lean [hunk 5]
```diff
@@ -411,22 +411,73 @@ lemma krullDim_eq_of_orderIso (f : α ≃o β) : krullDim α = krullDim β :=
...
-      apply le_iSup_of_le p.last (length_le_height_last (p := p))
-    · rw [krullDim_eq_iSup_length]
-      simp only [WithBot.coe_le_coe, iSup_le_iff]
-      intro x
-      exact height_le fun p _ ↦ le_iSup_of_le p le_rfl
+  | inl h => rw [krullDim_eq_bot_of_isEmpty, ciSup_of_empty]
+  | inr h => rw [krullDim_eq_iSup_height_of_nonempty, WithBot.coe_iSup (OrderTop.bddAbove _)]
+
+/--
+The Krull dimension is the supremum of the element's coheights.
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:459]:
```suggestion
The Krull dimension is the supremum of the elements' coheights.
```

**Comment by YaelDillies** [comment]
Thanks!

maintainer merge

**Comment by nomeata** [comment]
Thanks for proof reading my sunday morning typos :-)

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
